US08283353B2
4′-({4-[(6-ethylpyridin-3-yl)methyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1.5 g), (6-ethylpyridin-3-yl)methanol (0.46 g) and tributylphosphine (1.1 mL) in THF (50 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.88 g) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.43 g, 49%).

reactant | 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1.5 g | CC1=NN2C(NC(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)=N1 | C23H21N5O
reactant | (6-ethylpyridin-3-yl)methanol | 0.46 g | C(C)C1=CC=C(C=N1)CO | C8H11NO
reactant | tributylphosphine | 1.1 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.88 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-({4-[(6-ethylpyridin-3-yl)methyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.43 g, 49% | C(C)C1=CC=C(C=N1)CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C | C31H30N6O
